US07271197B2
i) 2-(4-{2-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethyl methanesulfonate
A solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{2-[4-(2-hydroxyethoxy)phenyl]ethyl}-1,3-oxazolidin-2-one (450 mg) in DCM (20 ml) at 0° C. under nitrogen was treated with diisopropylethylamine (0.23 ml) followed by methanesulphonyl chloride (0.09 ml) and the mixture was stirred at 0° C. for 1 h. Saturated NaHCO3 solution was added and the mixture was vigorously stirred for 5 min. The layers were separated and the organic phase washed with saturated NaHCO3 solution, dried (Na2SO4) and the solvent evaporated in vacuo to give the title compound (528 mg). LCMS RT=3.15 min.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{2-[4-(2-hydroxyethoxy)phenyl]ethyl}-1,3-oxazolidin-2-one | 450 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)OCCO)C | C23H27NO6
reactant | diisopropylethylamine | 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 0.09 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethyl methanesulfonate | 528 mg | CS(=O)(=O)OCCOC1=CC=C(C=C1)CCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C24H29NO8S
